US05716624
Following the basic procedure of Example 46(a), by reacting 4.58 g (0.02 mol) of 3-tert-butyl-4-hydroxybromobenzene with 3.3 ml (0.022 mol) of 1-iodohexane, 6 g (97%) of 3-tert-butyl-4-hexyloxybromobenzene were obtained in the form of a colorless oil.

reactant | 3-tert-butyl-4-hydroxybromobenzene | 0.02 mol, 4.58 g | C(C)(C)(C)C=1C=C(C=CC1O)Br | C10H13BrO
reactant | 1-iodohexane | 0.022 mol, 3.3 ml | ICCCCCC | C6H13I
product | 3-tert-butyl-4-hexyloxybromobenzene | 6 g, 97% | C(C)(C)(C)C=1C=C(C=CC1OCCCCCC)Br | C16H25BrO
